US09381191B2
2 g (18.33 mmol) of 3-aminophenol were dissolved in 6 ml of pyridine with magnetic stirring, the mixture was cooled to 10° C. and then 1.8 ml (23.26 mmol) of methanesulfonyl chloride were added. The cold bath was withdrawn and the mixture was stirred at r.t. for 18 h before being diluted with 100 ml of a saturated NaCl aqueous solution. The aqueous phase was extracted with 100 ml of ethyl acetate. The organic phase was washed with 50 ml of a saturated NaHCO3 aqueous solution, extracted with 50 ml of an aqueous solution of NaOH (0.5 N). The basic aqueous phase was washed with 2×100 ml of ethyl acetate and then acidified down to pH 2-3 by adding a 1N HCl aqueous solution. The acidified aqueous phase was extracted with 2×100 ml of ethyl acetate. The combined organic phases were washed with 100 ml of a saturated NaCl aqueous solution and then dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. 3.3 g (yield=80%) of N-(3-hydroxyphenyl)methanesulfonamide were obtained as an oil. LC-MS: m/z=186 (M-H+); UV purity at 254 nm=81%.

reactant | 3-aminophenol | 18.33 mmol, 2 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | methanesulfonyl chloride | 23.26 mmol, 1.8 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-hydroxyphenyl)methanesulfonamide | 3.3 g, yield=80% | OC=1C=C(C=CC1)NS(=O)(=O)C | C7H9NO3S
